US09260400B2
1-[2-(3-Methoxyphenoxy)ethyl]4-[3-(2-pyridyl)-2-pyridyl]piperazine
A stirred mixture of 1-(2-chloroethoxy)-3-methoxybenzene (0.65 g, 3.5 mmol), 1-[3-(2-pyridyl)-2-pyridyl]piperazine (0.7 g, 2.9 mmol) and K2CO3 (3.5 mmol) in DMF was refluxed overnight. After cooling, the mixture was evaporated to dryness and H2O (20 mL) was added to the residue. The aqueous phase was extracted with AcOEt (2×30 mL). The collected organic layers were dried over Na2SO4 and evaporated under reduced pressure. The crude residue was chromatographed (CHCl3/AcOEt, 9:1, as eluent) to afford pure compound in 77% yield.

reactant | 1-(2-chloroethoxy)-3-methoxybenzene | 3.5 mmol, 0.65 g | ClCCOC1=CC(=CC=C1)OC | C9H11ClO2
reactant | 1-[3-(2-pyridyl)-2-pyridyl]piperazine | 2.9 mmol, 0.7 g | N1=C(C=CC=C1)C=1C(=NC=CC1)N1CCNCC1 | C14H16N4
reactant | K2CO3 | 3.5 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[2-(3-Methoxyphenoxy)ethyl]4-[3-(2-pyridyl)-2-pyridyl]piperazine | 77% yield | COC=1C=C(OCCN2CCN(CC2)C2=NC=CC=C2C2=NC=CC=C2)C=CC1 | C23H26N4O2
